US07855290B2
[6-(2-Fluoro-4-{[1-(4-fluorophenylcarbamoyl)cyclopropanecarbonyl]amino}phenoxy)pyrimidin-4-yl]carbamic acid phenyl ester
A crude product of [6-(4-amino-2-fluorophenoxy)pyrimidin-4-yl]carbamic acid phenyl ester (303 mg) was dissolved in N,N-dimethylformamide (5 ml). 1-(4-Fluorophenylcarbamoyl)cyclopropanecarboxylic acid (497 mg), triethylamine (0.310 ml) and benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (984 mg) were added in this order under a nitrogen atmosphere at room temperature, followed by stirring for 5 hr. Liquid-liquid separation was carried out after addition of ethyl acetate and a saturated aqueous solution of sodium hydrogencarbonate to the reaction mixture. The resultant organic layer was washed with brine and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure to give residue, which was purified by silica gel column chromatography (eluent; heptane:ethyl acetate=2:3 to 1:1). Fractions containing the target compound were concentrated under reduced pressure, the resultant residue was purified again by silica gel column chromatography (eluent; heptane:ethyl acetate=2:3 to 1:1). Fractions containing the target compound were concentrated under reduced pressure to provide the titled compound as white powder (100.4 mg).

reactant | [6-(4-amino-2-fluorophenoxy)pyrimidin-4-yl]carbamic acid phenyl ester | 303 mg | C1(=CC=CC=C1)OC(NC1=NC=NC(=C1)OC1=C(C=C(C=C1)N)F)=O | C17H13FN4O3
reactant | 1-(4-Fluorophenylcarbamoyl)cyclopropanecarboxylic acid | 497 mg | FC1=CC=C(C=C1)NC(=O)C1(CC1)C(=O)O | C11H10FNO3
reactant | triethylamine | 0.310 ml | C(C)N(CC)CC | C6H15N
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 984 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | [6-(2-Fluoro-4-{[1-(4-fluorophenylcarbamoyl)cyclopropanecarbonyl]amino}phenoxy)pyrimidin-4-yl]carbamic acid phenyl ester | 100.4 mg | C1(=CC=CC=C1)OC(NC1=NC=NC(=C1)OC1=C(C=C(C=C1)NC(=O)C1(CC1)C(NC1=CC=C(C=C1)F)=O)F)=O | C28H21F2N5O5
